*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-271_freq port1 port2 PARAMS: Cpar=0.68pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=180
+ R2=0.03
+ C= {Cpar}
+ K1=0.000001
+ K2=0.05
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=3.0705E-07
+ Is=3.70390108
+ a=1.51520222
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=681.142869
.ends EPL2014-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-271_sat port1 port2 PARAMS: Cpar=0.587pF Ind=0.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=180
+ R2=0.03
+ C= {Cpar}
+ K1=0.000001
+ K2=0.05
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=3.0705E-07
+ Is=3.70390108
+ a=1.51520222
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=681.142869
.ends EPL2014-271_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-421_freq port1 port2 PARAMS: Cpar=0.82pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=220
+ R2=0.037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000996
+ L=4.0916E-07
+ Is=3.51937994
+ a=1.43072407
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=976.416859
.ends EPL2014-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-421_sat port1 port2 PARAMS: Cpar=0.683pF Ind=0.47uH
X1 port1 port2 Model1C PARAMS:
+ R1=220
+ R2=0.037
+ C= {Cpar}
+ K1=0.000001
+ K2=0.1
+ K3= {Ind}
+ K4=0.01
+ K5=0.00000996
+ L=4.0916E-07
+ Is=3.51937994
+ a=1.43072407
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=976.416859
.ends EPL2014-421_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-601_freq port1 port2 PARAMS: Cpar=0.78pF Ind=0.6uH
X1 port1 port2 Model1A PARAMS:
+ R1=250
+ R2=0.043
+ C= {Cpar}
+ K1=0.000001
+ K2=0.17
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=5.7102E-07
+ Is=2.87221181
+ a=1.4729893
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1356.45467
.ends EPL2014-601_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-601
* Inductance = 600nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-601_sat port1 port2 PARAMS: Cpar=0.639pF Ind=0.6uH
X1 port1 port2 Model1C PARAMS:
+ R1=250
+ R2=0.043
+ C= {Cpar}
+ K1=0.000001
+ K2=0.17
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=5.7102E-07
+ Is=2.87221181
+ a=1.4729893
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1356.45467
.ends EPL2014-601_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-821_freq port1 port2 PARAMS: Cpar=1.29pF Ind=0.82uH
X1 port1 port2 Model1A PARAMS:
+ R1=250
+ R2=0.051
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=8.0959E-07
+ Is=2.33891913
+ a=1.63971546
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1588.63218
.ends EPL2014-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-821_sat port1 port2 PARAMS: Cpar=1.128pF Ind=0.82uH
X1 port1 port2 Model1C PARAMS:
+ R1=250
+ R2=0.051
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000996
+ L=8.0959E-07
+ Is=2.33891913
+ a=1.63971546
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1588.63218
.ends EPL2014-821_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-102_freq port1 port2 PARAMS: Cpar=1.82pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=210
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.54
+ K3= {Ind}
+ K4=0.015
+ K5=0.00000998
+ L=9.9952E-07
+ Is=2.2561983
+ a=1.6320448
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1752.43426
.ends EPL2014-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-102_sat port1 port2 PARAMS: Cpar=1.627pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=210
+ R2=0.059
+ C= {Cpar}
+ K1=0.000001
+ K2=0.54
+ K3= {Ind}
+ K4=0.015
+ K5=0.00000998
+ L=9.9952E-07
+ Is=2.2561983
+ a=1.6320448
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1752.43426
.ends EPL2014-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-152_freq port1 port2 PARAMS: Cpar=1.91pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=200
+ R2=0.075
+ C= {Cpar}
+ K1=0.000001
+ K2=0.72
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000998
+ L=1.365E-06
+ Is=2.07174492
+ a=1.5352812
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2478.51784
.ends EPL2014-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-152_sat port1 port2 PARAMS: Cpar=1.788pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=200
+ R2=0.075
+ C= {Cpar}
+ K1=0.000001
+ K2=0.72
+ K3= {Ind}
+ K4=0.014
+ K5=0.00000998
+ L=1.365E-06
+ Is=2.07174492
+ a=1.5352812
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2478.51784
.ends EPL2014-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-222_freq port1 port2 PARAMS: Cpar=2.44pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=125
+ R2=0.12
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.2271E-06
+ Is=1.73831959
+ a=1.48326282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3361.97366
.ends EPL2014-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-222_sat port1 port2 PARAMS: Cpar=2.223pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=125
+ R2=0.12
+ C= {Cpar}
+ K1=0.000001
+ K2=0.8
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.2271E-06
+ Is=1.73831959
+ a=1.48326282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3361.97366
.ends EPL2014-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-332_freq port1 port2 PARAMS: Cpar=2.19pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.152
+ C= {Cpar}
+ K1=0.000001
+ K2=1
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=3.2437E-06
+ Is=1.6303059
+ a=1.32124983
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5027.99188
.ends EPL2014-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-332_sat port1 port2 PARAMS: Cpar=2.021pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=100
+ R2=0.152
+ C= {Cpar}
+ K1=0.000001
+ K2=1
+ K3= {Ind}
+ K4=0.04
+ K5=0.0000098
+ L=3.2437E-06
+ Is=1.6303059
+ a=1.32124983
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5027.99188
.ends EPL2014-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-472_freq port1 port2 PARAMS: Cpar=2.6pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=95
+ R2=0.231
+ C= {Cpar}
+ K1=0.000001
+ K2=1.58
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000099
+ L=4.5786E-06
+ Is=2.23726578
+ a=0.6911454
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6725.97399
.ends EPL2014-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-472_sat port1 port2 PARAMS: Cpar=2.397pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=95
+ R2=0.231
+ C= {Cpar}
+ K1=0.000001
+ K2=1.58
+ K3= {Ind}
+ K4=0.06
+ K5=0.0000099
+ L=4.5786E-06
+ Is=2.23726578
+ a=0.6911454
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6725.97399
.ends EPL2014-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-682_freq port1 port2 PARAMS: Cpar=2.72pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=140
+ R2=0.287
+ C= {Cpar}
+ K1=0.000001
+ K2=2.02
+ K3= {Ind}
+ K4=0.065
+ K5=0.0000099
+ L=6.6301E-06
+ Is=1.385137
+ a=0.83192201
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7185.2944
.ends EPL2014-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-682_sat port1 port2 PARAMS: Cpar=2.567pF Ind=6.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=140
+ R2=0.287
+ C= {Cpar}
+ K1=0.000001
+ K2=2.02
+ K3= {Ind}
+ K4=0.065
+ K5=0.0000099
+ L=6.6301E-06
+ Is=1.385137
+ a=0.83192201
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7185.2944
.ends EPL2014-682_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-822_freq port1 port2 PARAMS: Cpar=2.84pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=165
+ R2=0.378
+ C= {Cpar}
+ K1=0.000001
+ K2=2.8
+ K3= {Ind}
+ K4=0.083
+ K5=0.00000995
+ L=8.0683E-06
+ Is=0.95955126
+ a=1.04783326
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8229.34218
.ends EPL2014-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-822_sat port1 port2 PARAMS: Cpar=2.673pF Ind=8.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=165
+ R2=0.378
+ C= {Cpar}
+ K1=0.000001
+ K2=2.8
+ K3= {Ind}
+ K4=0.083
+ K5=0.00000995
+ L=8.0683E-06
+ Is=0.95955126
+ a=1.04783326
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=8229.34218
.ends EPL2014-822_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2014-103_freq port1 port2 PARAMS: Cpar=2.59pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=175
+ R2=0.44
+ C= {Cpar}
+ K1=0.000001
+ K2=3.4
+ K3= {Ind}
+ K4=0.106
+ K5=0.00000995
+ L=9.9336E-06
+ Is=0.94974325
+ a=0.90535411
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10026.5712
.ends EPL2014-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2014-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2014-103_sat port1 port2 PARAMS: Cpar=2.432pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=175
+ R2=0.44
+ C= {Cpar}
+ K1=0.000001
+ K2=3.4
+ K3= {Ind}
+ K4=0.106
+ K5=0.00000995
+ L=9.9336E-06
+ Is=0.94974325
+ a=0.90535411
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10026.5712
.ends EPL2014-103_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
